US06521666B1
1,3-Dimethoxybenzene (4 g) was dissolved in freshly distilled THF (10 mL). This solution was cooled to −78° C. and n-BuLi (24 mL, 1.6 M solution in hexanes) was added dropwise to the cold solution. The mixture was stirred at −78° C. for 1 h, then warmed to room temperature and stirred for 1 h. The resulting mixture was cooled again to −78° C. and (MeO)3B (6.7 mL) was added. The mixture was allowed to warm to room temperature and stirred overnight. Water (10 mL) was added, and the mixture was stirred for 0.5 h, acidified to pH 4 with acetic acid and extracted with EtOAc. The extract was dried (MgSO4) and evaporated to give 2,6-dimethoxybenzeneboronic acid, which was used without further purification.

reactant | 1,3-Dimethoxybenzene | 4 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | n-BuLi | 1.6 M, 24 mL | [Li]CCCC
reactant | (MeO)3B | 6.7 mL | B(OC)(OC)OC | C3H9BO3
reactant | Water | 10 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,6-dimethoxybenzeneboronic acid | COC1=C(C(=CC=C1)OC)B(O)O | C8H11BO4
